US06548495B2
{4-(2-tert.-Butyl-pyrrol-1-yl)-2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-5-methoxy-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from [2-amino-4-(2-tert.-butyl-pyrrol-1-yl)-5-methoxy-phenyl]-carbamic acid tert.-butyl ester (Example J5) (89 mg, 0.25 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example L1) (63 mg, 0.275 mmol) according to the general procedure M. Obtained as an off-white solid (72 mg).

reactant | [2-amino-4-(2-tert.-butyl-pyrrol-1-yl)-5-methoxy-phenyl]-carbamic acid tert.-butyl ester | 0.25 mmol, 89 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OC)N1C(=CC=C1)C(C)(C)C)N)=O | C20H29N3O3
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.275 mmol, 63 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {4-(2-tert.-Butyl-pyrrol-1-yl)-2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-5-methoxy-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OC)N1C(=CC=C1)C(C)(C)C)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C30H34N4O5
